US04621901
A mixture of 10.3 g of 4'-[trans-4-(4-pentenyl)cyclohexyl]-4-biphenylcarboxylic acid and 300 ml of acetone was cooled to 2° C. while stirring and gassing with nitrogen, treated dropwise within 10 minutes with a solution of 8.2 ml of triethylamine in 58 ml of acetone and stirred for a further 5 minutes. Thereafter, the mixture was treated dropwise at 0°-2° C. within 10 minutes with a solution of 7.1 ml of ethyl chloroformate in 29 ml of acetone. The mixture was stirred for a further 30 minutes at 0°-2° C. and treated dropwise within 10 minutes with a solution of 5.25 g of sodium azide in 29 ml of water. The reaction mixture was stirred for a further 2.25 hours while cooling with an ice-bath, then poured into 1 l of water and extracted once with 1 l of diethyl ether and once with 500 ml of diethyl ether. The ether phases were washed with water, dried over sodium sulphate, filtered and concentrated. The beige crystalline residue (12.2 g) was separated by chromatography on silica gel with methylene chloride, whereby 9.9 g (89.5%) of 4'-[trans-4-(4-pentenyl)cyclohexyl]-4-biphenylcarboxylic acid azide were obtained as colourless crystals.

reactant | 4'-[trans-4-(4-pentenyl)cyclohexyl]-4-biphenylcarboxylic acid | 10.3 g | C(CCC=C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C24H28O2
reactant | triethylamine | 8.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 7.1 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 5.25 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 58 ml | CC(=O)C | C3H6O
solvent | acetone | 29 ml | CC(=O)C | C3H6O
solvent | water | 29 ml | O | H2O
solvent | water | 1 l | O | H2O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 4'-[trans-4-(4-pentenyl)cyclohexyl]-4-biphenylcarboxylic acid azide | 9.9 g, 89.5% | C(CCC=C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N=[N+]=[N-] | C24H27N3O
